US05869501
N-[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]benzenesulfonamide
Starting compound: 7-[[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile, benzenesulfonyl chloride.

reactant | 7-[[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(NCC2=CC=C3C=CC(=CC3=C2)C#N)C=C1 | C28H31N3O3
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]benzenesulfonamide | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=CC=C1)CC1=CC2=CC(=CC=C2C=C1)C#N | C34H35N3O5S
